US05864043
Tert.butyl 4'[N-(5-benzylamino-2-nitrophenyl)-pentanoylaminomethyl]biphenyl-2-carboxylate
tert.butyl 4'-[N-(5-dimethylamino-2-nitrophenyl)-pentanoylaminomethyl]biphenyl-2-carboxylate oil, Rf value: 0.35 (Silica gel: hexane/ethyl acetate=4:1).

reactant | tert.butyl 4'-[N-(5-dimethylamino-2-nitrophenyl)-pentanoylaminomethyl]biphenyl-2-carboxylate | CN(C=1C=CC(=C(C1)N(C(CCCC)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])C | C31H37N3O5
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Tert.butyl 4'[N-(5-benzylamino-2-nitrophenyl)-pentanoylaminomethyl]biphenyl-2-carboxylate | C(C1=CC=CC=C1)NC=1C=CC(=C(C1)N(C(CCCC)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C36H39N3O5
